US04486444
2-Methylpropyl 4-[(2-Sulfamoyl-5-thienyl)carbonyl]phenyl Carbonate
A solution of 5-(4-hydroxybenzoyl)thiophene-2-sulfonamide (0.00783 mole) in acetone (50 ml) at 0° C. is treated with triethylamine (0.00861 mole) followed by isobutyl chloroformate (0.00861 mole) dropwise, during 30 minutes at 0°-2° C.

reactant | 5-(4-hydroxybenzoyl)thiophene-2-sulfonamide | 0.00783 mole | OC1=CC=C(C(=O)C2=CC=C(S2)S(=O)(=O)N)C=C1 | C11H9NO4S2
reactant | triethylamine | 0.00861 mole | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.00861 mole | ClC(=O)OCC(C)C | C5H9ClO2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-Methylpropyl 4-[(2-Sulfamoyl-5-thienyl)carbonyl]phenyl Carbonate | C(OCC(C)C)(OC1=CC=C(C=C1)C(=O)C1=CC=C(S1)S(N)(=O)=O)=O | C16H17NO6S2
